US04609689
A solution of 5.8 mg of FITC in 4 ml of DMF was prepared and serially diluted 1:4 with DMF. To 0.3 ml of each FITC-DMF dilution was added 5 ml of the above 1% microbead suspension. The suspensions were stirred for 1 hour and the equivalent fluorescence of each was determined. The results are given in the following Table:

reactant | FITC DMF | 0.3 ml | C1=CC2=C(C=C1N=C=S)C(=O)OC23C4=C(C=C(C=C4)O)OC5=C3C=CC(=C5)O.CN(C)C=O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | FITC | 5.8 mg | C1=CC2=C(C=C1N=C=S)C(=O)OC23C4=C(C=C(C=C4)O)OC5=C3C=CC(=C5)O | C21H11NO5S
